US05270309
To a suspension of methyl-4-benzyloxy-5,7-dichloroquinoline-2-carboxylate (1.2 g) in ethanol (20 ml) was added a solution of sodium hydroxide (0.53 g) in water (20 ml) and the mixture was stirred at room temperature for 1 h. Hydrochloric acid (11M) was added until pH2 and the resulting precipitate was filtered off, washed with water (20 ml), ethanol (10 ml), diethylether (5 ml) and dried to yield 4-benzyloxy-5,7-dichloroquinoline-2-carboxylic acid (0.95 g). δ (360 MHz, DMSO-d6), 5.49 (2H, s, CH2), 7.40 (3H, m, m,p-ArH), 7.58 (2H, d, o-ArH), 7.71 (1H, s, 3-H), 7.83 (1H, d, 6-H) and 8.81 (1H, d, 8-H).

reactant | methyl-4-benzyloxy-5,7-dichloroquinoline-2-carboxylate | 1.2 g | COC(=O)C1=NC2=CC(=CC(=C2C(=C1)OCC1=CC=CC=C1)Cl)Cl | C18H13Cl2NO3
reactant | sodium hydroxide | 0.53 g | [OH-].[Na+]
reactant | Hydrochloric acid | 11M | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 4-benzyloxy-5,7-dichloroquinoline-2-carboxylic acid | 0.95 g | C(C1=CC=CC=C1)OC1=CC(=NC2=CC(=CC(=C12)Cl)Cl)C(=O)O | C17H11Cl2NO3
